US08877749B2
Step A: (3R)-benzyl 3′-methyl-6′-oxo-2′,5′,6′,7′-tetrahydrospiro[cyclopentane-1,4′-pyrazolo[3,4-b]pyridine]-3-carboxylate
To (R)-benzyl 3-oxocyclopentanecarboxylate (0.4 g, 1.833 mmol) were sequentially added N-methylpyrrolidone (3 mL), 2,2-dimethyl-1,3-dioxane-4,6-dione (0.264 g, 1.833 mmol) and 3-methyl-1H-pyrazol-5-amine (0.178 g, 1.833 mmol) at room temperature. The contents heated to 80° C. (oil bath temp.) for 75 min, and stirred at room temperature for additional 48 hours. The reaction mixture was partitioned between ethyl acetate (40 mL) and 1N hydrogen chloride (15 mL). The ethyl acetate layer was separated and sequentially washed with 1N sodium hydroxide (15 mL), brine (20 mL), dried over sodium sulfate, concentrated and subjected to preparative HPLC (Phenomex Luna AXIA 30×100 mm; 10 min. gradient; solvent A=10% MeOH, 90% H2O, 0.1% TFA, solvent B=90% MeOH, 10% H2O, 0.1% TFA). Fractions corresponding to the desired product were isolated and concentrated. The residue that was obtained was partitioned between dichloromethane (20 mL) and saturated aqueous sodium bicarbonate solution. The dichloromethane layer was separated, dried over sodium sulfate and concentrated to yield a solid (33 mg, 0.097 mmol, 5.31%). It was used as such for the subsequent step without further purification. MS (ESI) m/z 340.16 (M+H)+

reactant | (R)-benzyl 3-oxocyclopentanecarboxylate | 1.833 mmol, 0.4 g | O=C1C[C@@H](CC1)C(=O)OCC1=CC=CC=C1 | C13H14O3
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 1.833 mmol, 0.264 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | 3-methyl-1H-pyrazol-5-amine | 1.833 mmol, 0.178 g | CC1=NNC(=C1)N | C4H7N3
solvent | N-methylpyrrolidone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | (3R)-benzyl 3′-methyl-6′-oxo-2′,5′,6′,7′-tetrahydrospiro[cyclopentane-1,4′-pyrazolo[3,4-b]pyridine]-3-carboxylate | CC=1NN=C2NC(CC3(C21)C[C@@H](CC3)C(=O)OCC3=CC=CC=C3)=O | C19H21N3O3
